US07816522B2
(174d) 2-(6-aminopyridin-2-yl)-5-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2,4-dihydro-[1,2,4]triazol-3-one
After adding 41 μl of triethylamine and 63 μl of diphenylphosphorylazide to a solution of 81 mg of 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid in 4 ml of 1,4-dioxane under a nitrogen atmosphere, the mixture was heated for 20 hours at 80° C. After cooling, the reaction mixture was filtered and purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% trifluoroacetic acid) to give the title compound (33 mg) as a white solid.

reactant | triethylamine | 41 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 63 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid | 81 mg | FC1=C(C=C(C=C1OCCF)OC)C(C1=NN(C(N1)=O)C1=CC=CC(=N1)C(=O)O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H23F2N7O6
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 2-(6-aminopyridin-2-yl)-5-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2,4-dihydro-[1,2,4]triazol-3-one | 33 mg | NC1=CC=CC(=N1)N1N=C(NC1=O)C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCF)F | C26H24F2N8O4
